US08957073B2
2-(3-(3-(4-chlorophenyl)pyrazin-2-yl)azetidin-1-yl)quinazoline
2M aqueous sodium carbonate (0.378 mL, 0.756 mmol, J. T. Baker) was added to a stirred mixture of 2-(3-(3-chloropyrazin-2-yl)azetidin-1-yl)quinazoline (0.075 g, 0.252 mmol, Preparation 1), trans-dichlorobis(triphenylphosphine)palladium (ii) (0.009 g, 0.013 mmol, Strem), and 4-chlorophenylboronic acid (0.047 g, 0.302 mmol, ASDI) in 1,4-dioxane (1 mL) in a sealed tube under an argon atmosphere. The reaction mixture was stirred at 80° C. for 17 h. The reaction mixture was concentrated in vacuo and diluted with DCM. The resulting suspension was filtered, and the filtrate was concentrated in vacuo. The resulting crude material was purified via reverse phase HPLC (Column: Xbridge 19×100 mm, 5 μm, 1771302301) eluting with 0.1% NH4OH in acetonitrile/water to give 0.060 g (64%) of a yellow amorphous solid.

reactant | sodium carbonate | 0.756 mmol, 2M, 0.378 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-(3-(3-chloropyrazin-2-yl)azetidin-1-yl)quinazoline | 0.252 mmol, 0.075 g | ClC=1C(=NC=CN1)C1CN(C1)C1=NC2=CC=CC=C2C=N1 | C15H12ClN5
reactant | 4-chlorophenylboronic acid | 0.302 mmol, 0.047 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | trans-dichlorobis(triphenylphosphine)palladium | 0.013 mmol, 0.009 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(3-(3-(4-chlorophenyl)pyrazin-2-yl)azetidin-1-yl)quinazoline | 0.060 g, 64% | ClC1=CC=C(C=C1)C=1C(=NC=CN1)C1CN(C1)C1=NC2=CC=CC=C2C=N1 | C21H16ClN5
